* c:\users\sabarishmohan\esim-workspace\74182_test\74182_test.cir

.include 74S182.sub
x1 net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u4-pad1_ net-_u4-pad5_ net-_u4-pad4_ net-_u4-pad3_ net-_u4-pad2_ net-_u6-pad2_ net-_u3-pad16_ net-_u3-pad15_ 74S182
* u3  g1 p1 g0 p0 g3 p3 p2 g2 net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ adc_bridge_8
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ p cnx cny g cnz dac_bridge_5
r1  cnz gnd 100
r2  g gnd 100
r3  cny gnd 100
r4  cnx gnd 100
r5  p gnd 100
* u1  g1 plot_v1
* u2  p1 plot_v1
* u6  cn net-_u6-pad2_ adc_bridge_1
v1 g1 gnd  dc 5
v2 p1 gnd  dc 5
v3 g0 gnd  dc 5
v4 p0 gnd  dc 5
v5 g3 gnd  dc 5
v6 p3 gnd  dc 0
v7 p2 gnd  dc 0
v8 g2 gnd  dc 5
v9 cn gnd  dc 5
* u12  p plot_v1
* u13  cnx plot_v1
* u14  cny plot_v1
* u15  g plot_v1
* u16  cnz plot_v1
* u8  g3 plot_v1
* u9  p3 plot_v1
* u10  p2 plot_v1
* u7  p0 plot_v1
* u5  g0 plot_v1
* u11  g2 plot_v1
* u17  cn plot_v1
a1 [g1 p1 g0 p0 g3 p3 p2 g2 ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] u3
a2 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ ] [p cnx cny g cnz ] u4
a3 [cn ] [net-_u6-pad2_ ] u6
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(g1)
plot v(p1)
plot v(p)
plot v(cnx)
plot v(cny)
plot v(g)
plot v(cnz)
plot v(g3)
plot v(p3)
plot v(p2)
plot v(p0)
plot v(g0)
plot v(g2)
plot v(cn)
.endc
.end
