* c:\users\sabarishmohan\esim-workspace\54f64_test\54f64_test.cir

.include 54f64.sub
x1 net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u2-pad1_ net-_u4-pad10_ net-_u4-pad9_ net-_u4-pad8_ net-_u4-pad7_ net-_u4-pad6_ 54f64
* u4  b0 c0 d0 a3 b3 net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ adc_bridge_5
* u1  a0 a2 b2 a1 b1 c1 net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ adc_bridge_6
* u2  net-_u2-pad1_ out dac_bridge_1
r1  out gnd 1k
* u3  out plot_v1
v11  b0 gnd pulse(0 5 0 0 0 0 10)
v10  c0 gnd pulse(5 0 0 0 0 2 4)
v9  d0 gnd pulse(0 5 0 0 0 1 2)
v8  a3 gnd pulse(0 5 0 0 0 3 6)
v7  b3 gnd pulse(5 0 0 0 0 2 5)
v6  c1 gnd pulse(0 5 0 0 0 2 4)
v5  b1 gnd pulse(5 0 0 0 0 5 10)
v4  a1 gnd pulse(0 5 0 0 0 5 10)
v3  b2 gnd pulse(0 5 0 0 0 4 8)
v2  a2 gnd pulse(5 0 0 0 0 4 10)
v1  a0 gnd pulse(0 5 0 0 0 5 10)
* u5  a0 plot_v1
* u6  a2 plot_v1
* u7  b2 plot_v1
* u8  a1 plot_v1
* u9  b1 plot_v1
* u11  b3 plot_v1
* u12  a3 plot_v1
* u13  d0 plot_v1
* u14  c0 plot_v1
* u15  b0 plot_v1
* u10  c1 plot_v1
a1 [b0 c0 d0 a3 b3 ] [net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ ] u4
a2 [a0 a2 b2 a1 b1 c1 ] [net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
a3 [net-_u2-pad1_ ] [out ] u2
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(a0)
plot v(a2)
plot v(b2)
plot v(a1)
plot v(b1)
plot v(b3)
plot v(a3)
plot v(d0)
plot v(c0)
plot v(b0)
plot v(c1)
.endc
.end
